US06441015B2
4-(4-Amino-2,6-dimethyl-phenoxy)-2-cyclopropylmethanesulfonyl-phenol was prepared from 2-cyclopropylmethanesulfonyl-4-(2,6-dimethyl-4-nitro-phenoxy)-phenol according to a procedure analogous to that described in EXAMPLE 4, Step A. Methanol was used instead of ethanol as a co-solvent. Reaction mixture was hydrogenated for 3 hours. After the mixture was filtered through Celite® and concentrated, the title product of Step D was used in the next step without purification. MS (APCI−) Calc.: 347.4, Found: 346.0 (M−1).

reactant | 2-cyclopropylmethanesulfonyl-4-(2,6-dimethyl-4-nitro-phenoxy)-phenol | C1(CC1)CS(=O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)O | C18H19NO6S
solvent | Methanol | CO | CH4O
product | 4-(4-Amino-2,6-dimethyl-phenoxy)-2-cyclopropylmethanesulfonyl-phenol | NC1=CC(=C(OC2=CC(=C(C=C2)O)S(=O)(=O)CC2CC2)C(=C1)C)C | C18H21NO4S
